US07888366B2
A solution of 3-thiophenemethanol (1.0 g; 8.76 mmol) in dimethylformamide was added to a cooled (0° C.) slurry of sodium hydride (0.42 g; 10.51 mmol) in dimethylformamide under nitrogen atmosphere. The reaction mixture was slowly warmed to room temperature, stirred for 1 hour. Again, cooled (0° C.), then a solution of 2,6-difluorobenzonitrile in dimethylfomamide was added, stirred overnight at room temperature. The reaction mixture was poured on crushed ice-water, stirred, filtered, washed with water and dried to afford 600 milligrams of 2-fluoro-6-(thiophen-3-ylmethoxy)benzonitrile.

reactant | 3-thiophenemethanol | 8.76 mmol, 1.0 g | S1C=C(C=C1)CO | C5H6OS
reactant | sodium hydride | 10.51 mmol, 0.42 g | [H-].[Na+]
reactant | 2,6-difluorobenzonitrile | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-fluoro-6-(thiophen-3-ylmethoxy)benzonitrile | 600 milligrams | FC1=C(C#N)C(=CC=C1)OCC1=CSC=C1 | C12H8FNOS
